US04581369
To a suspension of 16 g of 3-(1-imidazolyl)-2',4',6'-trimethylbenzophenone in 90 ml of ethanol is added a solution of 3.4 g of sodium borohydride in 30 ml of water. After stirring at 56° C. for 20 hours, the reaction mixture is poured into ice-cold water. The precipitate is filtered off and recrystallized from a mixture of dioxane and water to give 13.6 g of α-(2,4,6-trimethylphenyl)-3-(1-imidazolyl)benzenemethanol as white crystals, melting at 191°-193° C.

reactant | 3-(1-imidazolyl)-2',4',6'-trimethylbenzophenone | 16 g | N1(C=NC=C1)C=1C=C(C(=O)C2=C(C=C(C=C2C)C)C)C=CC1 | C19H18N2O
reactant | sodium borohydride | 3.4 g | [BH4-].[Na+]
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
product | α-(2,4,6-trimethylphenyl)-3-(1-imidazolyl)benzenemethanol | 13.6 g | CC1=C(C(=CC(=C1)C)C)C(O)C1=CC(=CC=C1)N1C=NC=C1 | C19H20N2O
